US08471005B2
Into a 1-Neck round-bottom flask, 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.580 g, 2.38 mmol), N-Methyl-N-[1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazol-3-yl]-methanesulfonamide (1.50 g, 4.75 mmol), Tetrakis(triphenylphosphine)palladium(0) (0.274 g, 0.238 mmol), N,N-Dimethylformamide (10 mL, 100 mmol), 1,4-Dioxane (20 mL, 200 mmol), and 1.50 M of Sodium carbonate in Water (9.50 mL, 14.2 mmol) were added. The reaction mixture was heated at 95° C. overnight. The solvent was removed under vacuum. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give a solid. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 5% methanol). The collected fractions afforded N-Methyl-N-[1-methyl-4-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-1H-pyrazol-3-yl]-methanesulfonamide as a yellow solid (0.32 g, 38%) 1256f. Into a 8-dram vial, Methylene chloride (10 mL, 200 mmol), N-Methyl-N-[1-methyl-4-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-1H-pyrazol-3-yl]-methanesulfonamide (0.250 g, 0.709 mmol), and m-CPBA 70-75% (70:30, m-Chloroperbenzoic acid:3-Chlorobenzoic acid, 0.175 g, 0.709 mmol) were added. The reaction mixture was stirred at room temperature for one hour. Sat. NaHCo3 and DCM was added. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to afford a yellow solid.

reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.38 mmol, 0.580 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | N-Methyl-N-[1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazol-3-yl]-methanesulfonamide | 4.75 mmol, 1.50 g | CN(S(=O)(=O)C)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)C | C12H22BN3O4S
reactant | N,N-Dimethylformamide | 100 mmol, 10 mL | CN(C=O)C | C3H7NO
reactant | 1,4-Dioxane | 200 mmol, 20 mL | O1CCOCC1 | C4H8O2
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 14.2 mmol, 9.50 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.238 mmol, 0.274 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Methyl-N-[1-methyl-4-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-1H-pyrazol-3-yl]-methanesulfonamide | 0.32 g, 38% | CN(S(=O)(=O)C)C1=NN(C=C1C1=CC=C2C=NC(=NN21)SC)C | C13H16N6O2S2
